US04224323
Prior to the present invention, 6-chloro-2-methyl-3,3a-dihydro-2H,9H-isoxazolo (3,2-b) (1,3) benzoxazin-9-one has been prepared by the reaction of 5-chlorosalicylhydroxamic acid (made from 5-chlorosalicylate and hydroxylamine) and crotonaldehyde in the presence of hydrogen chloride and glacial acetic acid to obtain 6-chloro-2-(2-chloropropyl)-2,3-dihydro-3-hydroxy-4H-1, 3-benzoxazin-4-one. The latter compound was then cyclized to 7-chloro-2-methyl-3,3a-dihydro-2H,9H-isoxazolo (3,2-b) (1,3) benzoxazin-9-one. Said cyclization can be carried out using organic or inorganic bases in the appropriate solvent. U.S. Pat. No. 3,598,814 discloses and claims 7-chloro-2-methyl-3, 3a-dihydro-2H,9H-isoxazolo (3,2b) (1,3) benzoxazin-9-one and several methods for its manufacture.

reactant | 6-chloro-2-methyl-3,3a-dihydro-2H,9H-isoxazolo (3,2-b) (1,3) benzoxazin-9-one | ClC1=CC2=C(C(N3C(O2)CC(O3)C)=O)C=C1 | C11H10ClNO3
reactant | 5-chlorosalicylhydroxamic acid | ClC1=CC=C(C(C(=O)NO)=C1)O | C7H6ClNO3
reactant | crotonaldehyde | C(\C=C\C)=O | C4H6O
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-chloro-2-(2-chloropropyl)-2,3-dihydro-3-hydroxy-4H-1, 3-benzoxazin-4-one | ClC=1C=CC2=C(C(N(C(O2)CC(C)Cl)O)=O)C1 | C11H11Cl2NO3
